US05728686
Diethyl [4-(3-methyl-7-propyl-xanthin-1-yl)butyl]phosphonate
The title substance was prepared from 0.072 mol of 3-methyl-7-propyl-xanthine and 0.072 mol of diethyl 4-chlorobutanephosphonate analogously to Example 23, chromatographed on silica gel (eluent: dichloromethane/methanol 20:1) and crystallized from diisopropyl ether.

reactant | 3-methyl-7-propyl-xanthine | 0.072 mol | CN1C(NC(C=2N(C=NC12)CCC)=O)=O | C9H12N4O2
reactant | diethyl 4-chlorobutanephosphonate | 0.072 mol | ClCCCCP(OCC)(=O)OCC | C8H18ClO3P
product | Diethyl [4-(3-methyl-7-propyl-xanthin-1-yl)butyl]phosphonate | CN1C(N(C(C=2N(C=NC12)CCC)=O)CCCCP(OCC)(OCC)=O)=O | C17H29N4O5P
